US05166347
Preparation of N-cyano-N'-(2-nitroxyethyl)-2-furancarboximidamide
Methyl N-cyano-2 furancarboximidate (0.32 g, 2.09 mmol) was dissolved in methanol (3 ml), 2-nitroxyethylamine nitrate (0.37 g, 2.19 mmol) and triethylamine (0.22 g, 2.19 mmol) were added. The mixture was stirred at room temperature for 16 hours. After the reaction was completed, the reaction solution was concentrated under reduced pressure, and the residue thus obtained was subjected to chromatography on a silica gel column (WAKO GEL C-200, 25 g) eluting with dichloromethane. The eluted fractions were concentrated under reduced pressure and crystallized from dichloromethane to give the title compound (0.20 g, 0.89 mmol, yield: 45%) as colorless crystals.

reactant | Methyl N-cyano-2 furancarboximidate | 2.09 mmol, 0.32 g | C(#N)N=C(OC)C=1OC=CC1 | C7H6N2O2
reactant | 2-nitroxyethylamine nitrate | 2.19 mmol, 0.37 g | [N+](=O)(O)[O-].O([N+](=O)[O-])CCN
reactant | triethylamine | 2.19 mmol, 0.22 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 3 ml | CO | CH4O
product | N-cyano-N'-(2-nitroxyethyl)-2-furancarboximidamide | 0.89 mmol, 0.20 g, yield: 45% | C(#N)NC(=NCCO[N+](=O)[O-])C=1OC=CC1 | C8H8N4O4
